OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879446571311104
* Revision: Rev:1.0
.model OC_HONGJIACHENG_MM1W3V6 D(IS=2.2284493283e-12 N=1.8000000000e0 RS=1.0000000000e-4 BV=3.6000000000e0 IBV=6.9000000000e-2 NBV=1.0000000000e0)
.temp 25
IZ 0 cathode DC 0.069
Ddut 0 cathode OC_HONGJIACHENG_MM1W3V6
Vall all 0 DC 0
.op
.end
